US07482354B2
8-[4-(4-methyl-piperazin-1-yl)-phenylamino]-1,4,4-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylic acid methylamide tri-hydrochloride salt [B10-X00-M03(C01)-D04]
To 8-[4-(4-methyl-piperazin-1-yl)-phenylamino]-1,4,4-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylic acid methylamide (7.00 g, 15.192 mmol) dissolved into a 1:1 mixture of methanol/dichloromethane (149 mL) 4M hydrochloric acid in dioxane (12.12 mL, 48.48 mL) was added and the solution stirred at room temperature for 2 hours. After removing the solvent under reduced pressure, the reddish solid was dried at 43° C. under vacuum for 10 hours. There were obtained 8.11 g of the title compound as a red solid.

reactant | 8-[4-(4-methyl-piperazin-1-yl)-phenylamino]-1,4,4-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylic acid methylamide | 15.192 mmol, 7.00 g | CNC(=O)C1=NN(C2=C1C(CC=1C=NC(=NC21)NC2=CC=C(C=C2)N2CCN(CC2)C)(C)C)C | C25H32N8O
reactant | methanol dichloromethane | 4M, 149 mL | CO.ClCCl
solvent | dioxane | 12.12 mL | O1CCOCC1 | C4H8O2
product | 8-[4-(4-methyl-piperazin-1-yl)-phenylamino]-1,4,4-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylic acid methylamide tri-hydrochloride salt | 8.11 g | Cl.Cl.Cl.CNC(=O)C1=NN(C2=C1C(CC=1C=NC(=NC21)NC2=CC=C(C=C2)N2CCN(CC2)C)(C)C)C | InChI=1S/C25H32N8O.3ClH/c1-25(2)14-16-15-27-24(29-20(16)22-19(25)21(23(34)26-3)30-32(22)5)28-17-6-8-18(9-7-17)33-12-10-31(4)11-13-33;;;/h6-9,15H,10-14H2,1-5H3,(H,26,34)(H,27,28,29);3*1H
